US07781428B2
To a suspension of methyl 3-(cyclopentenylmethylene)-4-oxochroman-7-carboxylate; Preparation 34 (260 mg, 0.92 mmol) in ethanol (7 mL) was added 4-hydrazinyl-2-methylbenzonitrile hydrochloride; Preparation 2 (218 mg, 1.2 mmol). The slurry was heated to 80° C. for eighteen hours. The solution was returned to ambient temperature and the resulting solid was collected by vacuum filtration and washed with cold ethanol. Chromatography (normal phase, ethyl acetate/hexane) provided largely the cis isomer of methyl 2-(4-cyano-3-methylphenyl)-3-cyclopentenyl-2,3,3a,4-tetrahydrochromeno[4,3-c]pyrazole-7-carboxylate (yellow solid, 125 mg, 33% yield). LC/MS on 4.6×50 mm C-18 column, tR=6.98 minutes (10 to 90% acetonitrile/water over 8 minutes at 2 mL/minute with detection 254 nm, at 50° C.); ES-MS m/z 414 (M+H). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.63-1.83 (m, 2H), 2.05-2.11 (m, 2H), 2.14-2.20 (m, 2H), 2.39 (s, 3H), 3.83 (s, 3H), 3.88 (dd, J=13.02, 10.34 Hz, 1H), 3.98-4.03 (m, 1H), 4.67 (dd, J=10.20, 5.64 Hz, 1H), 5.45 (d, J=11.01 Hz, 1H), 5.60 (br. s., 1H), 6.86 (br. s., 1H), 7.11 (br. s., 1H), 7.44 (d, J=1.34 Hz, 1H), 7.53 (d, J=8.59 Hz, 1H), 7.58 (dd, J=8.06, 1.61 Hz, 1H), 7.93 (d, J=8.06 Hz, 1H).

reactant | methyl 3-(cyclopentenylmethylene)-4-oxochroman-7-carboxylate | C1(=CCCC1)C=C1COC2=CC(=CC=C2C1=O)C(=O)OC | C17H16O4
reactant | 4-hydrazinyl-2-methylbenzonitrile hydrochloride | Cl.N(N)C1=CC(=C(C#N)C=C1)C
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | ethanol | 7 mL | C(C)O | C2H6O
solvent | ethanol | 1.2 mmol, 218 mg | C(C)O | C2H6O
product | methyl 2-(4-cyano-3-methylphenyl)-3-cyclopentenyl-2,3,3a,4-tetrahydrochromeno[4,3-c]pyrazole-7-carboxylate | 125 mg, 33% yield | C(#N)C1=C(C=C(C=C1)N1N=C2C(C1C1=CCCC1)COC=1C=C(C=CC12)C(=O)OC)C | C25H23N3O3
